US07521447B2
Step E: 6-Bromo-5-(2,4-difluorophenoxy)-1-isobutyl-1H-indazole (15d):
6-Bromo-5-(2,4-difluorophenoxy)-1H-indazole (60.0 g, 185 mmol) was dissolved in DMF and treated with K2CO3 (76.5 g, 554 mmol) and with isobutyl bromide (126.4 g, 923 mmol). The mixture was stirred and heated to 80° C. for 16 hours. An additional 15 g of K2CO3 were added and the mixture was vigorously stirred for 24 hours more. The reaction mixture was then cooled to room temperature and filtered. The filtrate was concentrated under reduced pressure and dissolved in ether (1 L). The mixture was washed with 1:5 brine/water (2×600 mL). The aqueous phases were extracted with ether (300 mL) and the combined organics were dried (MgSO4) and concentrated under reduced pressure. The crude product was chromatographed on a Biotage Flash 75 in two batches (about 35 g each) eluting with 5% ethyl acetate in hexanes. The combined purified products yielded 30.1 g of the desired product as a solid (43% yield). MS (ESI+) m/z 381, 383 (M+1, Br pattern) detected; 1H NMR (400 mHz, CDCl3) δ 7.86 (s, 1H), 7.72 (s, 1H), 7.16 (s, 1H), 6.98 (m, 1H), 6.92 (m, 1H), 6.82 (m, 1H), 4.12 (d, 2H), 2.34 (m, 1H), 0.94 (d, 6H).

reactant | 6-Bromo-5-(2,4-difluorophenoxy)-1H-indazole | 185 mmol, 60.0 g | BrC1=C(C=C2C=NNC2=C1)OC1=C(C=C(C=C1)F)F | C13H7BrF2N2O
reactant | K2CO3 | 554 mmol, 76.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | isobutyl bromide | 923 mmol, 126.4 g | C(C(C)C)Br | C4H9Br
reactant | K2CO3 | 15 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-Bromo-5-(2,4-difluorophenoxy)-1-isobutyl-1H-indazole | 30.1 g, 43% yield | BrC1=C(C=C2C=NN(C2=C1)CC(C)C)OC1=C(C=C(C=C1)F)F | C17H15BrF2N2O
